US04610987
1.9 g of 2-chloro-5-piperidino-3,4-dihydroquinazoline was dissolved in 50 ml of methylene chloride. 1.4 g of ethyl bromoacetate and 0.2 g of tetrabutylammonium iodide were added to the solution, and 7.5 ml of a 10N sodium hydroxide aqueous solution was further added thereto in a nitrogen stream while stirring. After stirring at room temperature for 1 hour, the reaction mixture was washed with water, dried, and distilled off under reduced pressure to obtain crude oily ethyl (2-chloro-5-piperidino-3,4-dihydroquinazolin-3-yl)acetate in a substantially quantitative yield. The crude product was added to 10 ml of a 10% ethanolic solution of ammonia and heated in a sealed tube at 120° to 130° C. for 4 hours. After cooling, crystals thus precipitated were collected by filtration, washed with water and dried to obtain 0.65 g of 6-piperidino-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one. This product was suspended in methanol and dissolved therein by adjusting the pH to 1 to 2 with concentrated hydrochloric acid. The solution was treated with activated carbon, followed by filtration. The filtrate was concentrated under reduced pressure, and the crystals thus precipitated were collected to obtain a hydrochloride (melting point: 242°-245° C. with decomposition).

reactant | 2-chloro-5-piperidino-3,4-dihydroquinazoline | 1.9 g | ClC1=NC2=CC=CC(=C2CN1)N1CCCCC1 | C13H16ClN3
reactant | ethyl bromoacetate | 1.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | ammonia | N | H3N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium iodide | 0.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-piperidino-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one | 0.65 g, quantitative yield | N1(CCCCC1)C1=C2CN3C(=NC2=CC=C1)NC(C3)=O | C15H18N4O
